US05321037
3-(2-Hydroxy-3-morpholinopropoxy)-4-methyl-5-phenylisoxazole
1.40 g of morpholine was added to a solution of 3.00 g of 3-(2,3-epoxypropoxy)-4-methyl-5-phenylisoxazole (prepared as described in Preparation 3) in 50 ml of ethanol, and the mixture was heated under reflux for 3 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting solid residue was recrystallized from diethyl ether, to give 3.75 g (yield 90.7%) of the title compound as a colorless powder, melting at 94°-95° C.

reactant | morpholine | 1.40 g | N1CCOCC1 | C4H9NO
reactant | 3-(2,3-epoxypropoxy)-4-methyl-5-phenylisoxazole | 3.00 g | O1C(COC2=NOC(=C2C)C2=CC=CC=C2)C1 | C13H13NO3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-Hydroxy-3-morpholinopropoxy)-4-methyl-5-phenylisoxazole | 3.75 g, yield 90.7% | OC(COC1=NOC(=C1C)C1=CC=CC=C1)CN1CCOCC1 | C17H22N2O4
